US04728644
To 80 ml of phosphorus oxychloride are added 4 g of 4,5-diamino-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine and 1.7 g of isonicotinic acid, and the mixture is refluxed with heating for 6 hours under stirring. The reaction solution is concentrated and 700 ml of water is added to the residual oil. The solution is neutralized with an ammonia solution and the crystals precipitated are filtered, and then washed with water. Recrystallization from a mixture of chloroform and methanol (2:1) gives 2.7 g of 6-(4-methyl-1-piperazinyl)-2-phenyl-8-(4-pyridyl)purine, melting at 333°-337° C.

reactant | 4,5-diamino-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | 4 g | NC1=NC(=NC(=C1N)N1CCN(CC1)C)C1=CC=CC=C1 | C15H20N6
reactant | isonicotinic acid | 1.7 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
solvent | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(4-methyl-1-piperazinyl)-2-phenyl-8-(4-pyridyl)purine | 2.7 g | CN1CCN(CC1)C1=C2NC(=NC2=NC(=N1)C1=CC=CC=C1)C1=CC=NC=C1 | C21H21N7
